US05654322
n-Propylthiourea (270 mg), 3-chloro-2-oxohexanoic acid ethyl ester (441 mg), and pyridine (0.28 ml) were added to ethanol (10 ml), and the solution was refluxed for 3.5 hours. The solvent was evaporated. The residue was extracted with chloroform (20 ml), and washed with dilute hydrochloric acid solution (10 ml). The organic layer was dried over anhydrous magnesium sulfate and evaporated. The residue was purified by column chromatography on silica gel (eluent:chloroform/methanol=100/1), 2-n-propylamino-5-n-propyl thiazole-4-carboxylic acid ethyl ester (400 mg) was obtained.

reactant | n-Propylthiourea | 270 mg | C(CC)NC(=S)N | C4H10N2S
reactant | 3-chloro-2-oxohexanoic acid ethyl ester | 441 mg | C(C)OC(C(C(CCC)Cl)=O)=O | C8H13ClO3
reactant | pyridine | 0.28 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-n-propylamino-5-n-propyl thiazole-4-carboxylic acid ethyl ester | 400 mg | C(C)OC(=O)C=1N=C(SC1CCC)NCCC | C12H20N2O2S
